US06534488B1
Preparation of Tris(trimethylsilyl) Phosphite (compound 1)
Triethylamine (40.4 g, 40.4 mmol) was added dropwise to a mechanically stirred solution of phosphorous acid (16.5 g, 201 mmol) and chlorotrimethylsilane (44 g, 405 mmol) in diethyl ether (1200 cm3). Immediately, a white precipitate of triethlyamine hydrochloride formed. After the addition was complete (2 h) the mixture was stirred for a further 2 hours. The insoluble salt was removed by filtration and the filtrate concentrated to about 200 cm3. The small quantity of additional precipitate formed during this process was subsequently filtered off and the filtrate evaporated to give a cloudy liquid. The product was purified by distillation under reduced pressure, the fraction boiling in the range 45-50° C. at 0.1 mbar being collected. The bis(trimethylsilyl) phosphite was isolated as a colourless oil (35 g, 77%). 31P NMR: δ−12.8. Chlorotrimethylsilane (20 g, 185 mmol) was added dropwise to a stirred solution of bis(trimethylsilyl)phosphite (30 g, 132 mmol) and N,N-diethyltrimethylsilylamine (20 g, 137 mmol) and the mixture stirred at room temperature for 1 h. The solid formed was removed by filtration and the filtrate distilled in vacuo. A colourless fraction boiling at 77-80° C. at 0.1 mbar was collected (30 g, 75%). 31P NMR: δ+116.3.

reactant | Chlorotrimethylsilane | 185 mmol, 20 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | bis(trimethylsilyl)phosphite | 132 mmol, 30 g | C[Si](C)(C)OP(O[Si](C)(C)C)[O-]
reactant | N,N-diethyltrimethylsilylamine | 137 mmol, 20 g | C(C)N(CC)[Si](C)(C)C | C7H19NSi
product | Tris(trimethylsilyl) Phosphite | P(O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C9H27O3PSi3
